US06372777B1
Preparation of 1-(3-Bromophenyl)-2-methyl-5-phenyl-1H-pyrrole-3-carboxylic acid ethyl ester
m-Bromoaniline (5 mmol, 0.9 g), 3-oxo-2-(2-oxo-2-phenyl-ethyl)-butyric acid ethyl ester (5 mmol, 1.2 g), and tosic acid (0.1 g) were combined in ethanol, then heated under reflux. The named product was recrystallized from ethanol (m.p. 111° C.-112.7° C.).

reactant | m-Bromoaniline | 5 mmol, 0.9 g | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | 3-oxo-2-(2-oxo-2-phenyl-ethyl)-butyric acid ethyl ester | 5 mmol, 1.2 g | C(C)OC(C(C(C)=O)CC(C1=CC=CC=C1)=O)=O | C14H16O4
reactant | tosic acid | 0.1 g | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
solvent | ethanol | C(C)O | C2H6O
product | 1-(3-Bromophenyl)-2-methyl-5-phenyl-1H-pyrrole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N(C(=C1)C1=CC=CC=C1)C1=CC(=CC=C1)Br)C | C20H18BrNO2
